US04364872
Procedure for the Triethylaluminum-Methyl Bromide Exchange Reaction Using a Preformed Catalyst
The oil isolated from the above preparation was charged into a Fisher-Porter pressure vessel containing 4.0 ml of cyclohexane. The oil settled to the bottom. To this mixture was added 3.0 ml (21.9 mmoles) triethylaluminum. The vessel was then charged with 40 g (400 mmoles) of methyl bromide and heated at 115° for 2 hours. The vessel was cooled in dry ice, then placed into the dry box. Excess gases were vented. Dissolved methyl bromide and ethyl bromide were slowly evaporated under a stream of nitrogen until two layers were present. An ~1 ml aliquot of the top cyclohexane layer was filtered into an NMR tube. The NMR spectrum showed almost a quantitative conversion to trimethylaluminum.

reactant | cyclohexane | 4.0 ml | C1CCCCC1 | C6H12
reactant | triethylaluminum | 21.9 mmoles, 3.0 ml | C(C)[Al](CC)CC
reactant | methyl bromide | 400 mmoles, 40 g | CBr | CH3Br
solvent | dry ice | C(=O)=O | CO2
product | Triethylaluminum Methyl Bromide | C(C)[Al](CC)CC.CBr | InChI=1S/3C2H5.CH3Br.Al/c4*1-2;/h3*1H2,2H3;1H3;
